US07491705B2
To a solution of L-leucine (25 g, 0.19 mol) was dissolved in 2M NaOH (0.12 L) was slowly added 2-methoxyethyl chloroformate (30 g, 0.22 mol) and 1M NaOH at the same time under the ice-cooled condition. The mixture was stirred at room temperature for 18 hours, diluted into water (600 mL) and washed with ethyl ether (2×200 mL). The aqueous phase was cooled in an ice bath and acidified to pH 3 with 6M HCl. This mixture was extracted with ethyl acetate (EtOAc) (5×150 mL). The organic phase was dried over anhydrous MgSO4 and filtered, and the filtrate was concentrated in vacuo to yield N-((2-methoxyethoxy)carbonyl)-L-leucine (41 g, 92%) as a colorless oil.

reactant | L-leucine | 0.19 mol, 25 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | 2-methoxyethyl chloroformate | 0.22 mol, 30 g | ClC(=O)OCCOC | C4H7ClO3
reactant | water | 600 mL | O | H2O
solvent | NaOH | 2M, 0.12 L | [OH-].[Na+]
solvent | NaOH | 1M | [OH-].[Na+]
product | N-((2-methoxyethoxy)carbonyl)-L-leucine | 41 g, 92% | COCCOC(=O)N[C@@H](CC(C)C)C(=O)O | C10H19NO5
